US06136823
Synthesis of 7-Amino-1-(6-amino-3,5-difluoropyridin-2-yl)-6-fluoro-8-methyl-4-oxo-1,4-dihydoquinoline-3-carboxylic Acid
Concentrated hydrochloric acid (2 ml) was added to ethyl 7-amino-1-(6-tert-butylamino-3,5-difluoropyridin-2-yl)-6-fluoro-8-methyl-4-oxo-1,4-dihydroquinoline-3-carboxylate, and the mixture was heated under reflux for 5 hours. After the reaction mixture was cooled back to room temperature, water (2 ml) was added thereto. Solids deposited were collected by filtration and washed successively with water, ethanol and diethyl ether to obtain the title compound (72 mg) as a pale yellow powder.

reactant | hydrochloric acid | 2 ml | Cl | ClH
reactant | ethyl 7-amino-1-(6-tert-butylamino-3,5-difluoropyridin-2-yl)-6-fluoro-8-methyl-4-oxo-1,4-dihydroquinoline-3-carboxylate | NC1=C(C=C2C(C(=CN(C2=C1C)C1=NC(=C(C=C1F)F)NC(C)(C)C)C(=O)OCC)=O)F | C22H23F3N4O3
solvent | water | 2 ml | O | H2O
product | 7-Amino-1-(6-amino-3,5-difluoropyridin-2-yl)-6-fluoro-8-methyl-4-oxo-1,4-dihydoquinoline-3-carboxylic Acid | 72 mg | NC1=C(C=C2C(C(=CN(C2=C1C)C1=NC(=C(C=C1F)F)N)C(=O)O)=O)F | C16H11F3N4O3
